US08975254B2
N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)pyrazolo[1,5-a]pyrimidine-2-carboxamide
The title compound was prepared using the method of Example 34 (d) starting from pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (0.16 g; 0.97 mmol) and 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.20 g; 0.81 mmol). Yield 12%. 1H-NMR (400 MHz; d6-DMSO): δ 3.75 (q, 2H), 4.41 (t, 2H), 6.96 (d, 1H), 7.03 (s, 1H), 7.19 (m, 1H), 7.86 (d, 1H), 7.97 (m, 2H), 8.06 (s, 1H), 8.64 (m, 1H), 8.71 (m, 1H), 9.09 (d, 1H).

reactant | pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.97 mmol, 0.16 g | N1=C(C=C2N1C=CC=N2)C(=O)O | C7H5N3O2
reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.81 mmol, 0.20 g | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C12H11ClN4
product | N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)pyrazolo[1,5-a]pyrimidine-2-carboxamide | Yield 12% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)CCNC(=O)C1=NN2C(N=CC=C2)=C1 | C19H14ClN7O
